US07629363B2
3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-[2-(trifluoromethyl)phenyl]pyridin-2(1H)-one
N-bromosuccinimide (0.24 g, 1.36 mmol) was added into 4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-[2-(trifluoromethyl)phenyl]pyridin-2(1H)-one (0.54 g, 1.36 mmol) in 20 ml of dichloromethane. The mixture was stirred at room temperature for 2 hours. Saturated sodium bicarbonate solution (150 ml) was added into the reaction mixture and the combine solution was transferred to a separatory funnel. The product was extracted with ethyl acetate (250 ml). The ethyl acetate solution was dried over anhydrous magnesium sulfate and evaporated to dryness. 1H NMR (400 MHz, CDCl3) δ 7.82 (d, J=7.25 Hz, 1H), 7.7 (app t, J=7.66 Hz, 1H), 7.60 (m, 2H), 7.26 (s, 1H), 6.97 (m, 1H), 6.87 (m, 1H), 6.09 (s, 1H), 5.25 (app d, J=3.35 Hz, 2H), 1.94 (s, 3H); LC/MS, tr=2.84 minutes (5 to 95% acetonitrile/water over 5 minutes at 1 ml/min with detection 254 nm, at 50° C.). ES-HRMS m/z 474.0113 (M+H calcd for C20H14BrF5NO2 requires 474.0123).

reactant | N-bromosuccinimide | 1.36 mmol, 0.24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-[2-(trifluoromethyl)phenyl]pyridin-2(1H)-one | 1.36 mmol, 0.54 g | FC1=C(COC2=CC(N(C(=C2)C)C2=C(C=CC=C2)C(F)(F)F)=O)C=CC(=C1)F | C20H14F5NO2
reactant | sodium bicarbonate | 150 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-[2-(trifluoromethyl)phenyl]pyridin-2(1H)-one | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=C(C=CC=C1)C(F)(F)F)=O | C20H13BrF5NO2
